US04016274
Methyl 2-cyano-4-trifluoromethyl-benzoate (102.3 g.), sodium hydroxide pellets (108 g.), water (900 cc.) and methanol (1,900 cc.) are heated to the reflux temperature for 12 hours. The solution is decolorised by means of animal charcoal (0.6 g.). After filtration, hydrochloric acid (d = 1.19) (100 cc.) is added. The mixture is extracted with ethyl ether (2.25 liters). The organic layer is dried over anhydrous magnesium sulphate (40 g.). After filtering, and concentrating the filtrate, 4-trifluoromethyl-phthalic acid (99.1 g.) melting at 178° C is obtained.

reactant | Methyl 2-cyano-4-trifluoromethyl-benzoate | 102.3 g | C(#N)C1=C(C(=O)OC)C=CC(=C1)C(F)(F)F | C10H6F3NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 900 cc | O | H2O
reactant | charcoal | 0.6 g | C | CH4
solvent | methanol | 1,900 cc | CO | CH4O
product | 4-trifluoromethyl-phthalic acid | 99.1 g | FC(C=1C=C(C(C(=O)O)=CC1)C(=O)O)(F)F | C9H5F3O4
